US04180394
A solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (8.25 g, 0.025 mole) in 100 ml. of ether was cooled to 0° C. and treated with a solution of methanol (1.01 ml, 0.025 mole) and triethylamine (3.49 ml, 0.025 mole) in 100 ml. of ether. After two hours, the mixture was filtered and the filtrate was cooled to 0° C. and treated with a solution of m-chlorophenol (3.21 g, 0.025 mole) and triethylamine (3.49 ml, 0.025 mole) in 100 ml. of ether. The resulting solution was stirred overnight at 25° C., filtered and the filtrate concentrated in vacuo. The residue was extracted into petroleum ether and the resulting solution was concentrated in vacuo to yield ethyl N-trifluoroacetyl-N-(methoxy(m-chlorophenoxy)phosphonomethyl)glycinate as a yellow oil (7.55 g), ND =1.4803.

reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.025 mole, 8.25 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | methanol | 0.025 mole, 1.01 ml | CO | CH4O
reactant | triethylamine | 0.025 mole, 3.49 ml | C(C)N(CC)CC | C6H15N
reactant | m-chlorophenol | 0.025 mole, 3.21 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | triethylamine | 0.025 mole, 3.49 ml | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(methoxy(m-chlorophenoxy)phosphonomethyl)glycinate | 7.55 g | FC(C(=O)N(CC(=O)OCC)C(P(=O)(OOC1=CC(=CC=C1)Cl)O)OC)(F)F | C14H16ClF3NO8P
